US04880841
In 100 ml of a mixture of methanol and water (5:1) was dissolved 1.8 g of 4-{2-[2-(2-methoxyphenoxy)ethylamino]-2-methylethyl}-2-(methylthio)anisole and after adding dropwise thereto 10.5 ml of an aqueous solution of 0.5M sodium metaperoiodate at 0° C., the mixture was stirred overnight at 4° C. The crystals formed were removed by filtratation and the filtrate was concentrated under reduced pressure and the residue formed was purified by a silica gel column chromatography (eluate: a mixture of chloroform and methanol (97:3 by volume ratio) to provide 722 mg of oily 4-{2-[2-(2-methoxyphenoxy)ethylamino]-2-methylethyl}-2-(methylsulfinyl)anisole. The product was dissolved in 10 ml of methanol and after adding thereto a solution of 252 mg of oxalic acid di-hydrate dissolved in 6 ml of methanol, the mixture was allowed to stand overnight at room temperature. The resulting crystaline material was recovered by filtration and recrystallized from ethanol to provide 700 mg of 4-{2-[2-(2-methoxyphenoxy)ethylamino]-2-methylethyl}-2-(methylsulfinyl)anisole oxalate having a melting point of 172°-174° C.

reactant | 4-{2-[2-(2-methoxyphenoxy)ethylamino]-2-methylethyl}-2-(methylthio)anisole | 1.8 g | COC1=C(OCCNC(CC2=CC(=C(C=C2)OC)SC)C)C=CC=C1 | C20H27NO3S
reactant | sodium | 0.5M | [Na] | Na
reactant | methanol | CO | CH4O
solvent | water | O | H2O
product | 4-{2-[2-(2-methoxyphenoxy)ethylamino]-2-methylethyl}-2-(methylsulfinyl)anisole | 722 mg | COC1=C(OCCNC(CC2=CC(=C(C=C2)OC)S(=O)C)C)C=CC=C1 | C20H27NO4S
